US06251936B1
Acetic Acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester
A solution of bromine (0.326 mL, 6.15 mmol) in dichloromethane (9 mL) was added dropwise over a 15 minute period to a solution that was stirred in the absence of light of acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester (1.87 g, 5.41 mmol) and iron (III) chloride (50 mg, 0.31 mmol) in dichloromethane (47 mL) at −78° C. under a dry nitrogen atmosphere. After 10 minutes, a dilute aqueous sodium bisulfite solution was added and the reaction mixture was partitioned between water and ether. The ether phase was washed with brine and concentrated to provide the title compound as a white solid (2.09 g, 91%): mp: 190-191° C.; NMR (DMSO-d6); δ8.20 (d, J=8 Hz, 1H), 7.65 (ddd, J=8, 7, 1, 1H), 7.49 (ddd, J=8, 7, 1 Hz, 1H), 7.43-7.38 (m, 1H), 7.40 (d, J=9 Hz, 2H), 7.30 (d, J=9 Hz, 2H), 2.43 (d, J=1 Hz, 3H), 2.33 (s, 3H), 1.55 (d, J=1 Hz, 3H); MS (EI): 1 bromine isotope pattern 424 (95%, MI), 426 (100%); Anal. Calc. for C22H17BrO2S: C, 62.12; H, 4.03; N, 0.00. Found: C, 62.46; H, 4.05; N, 0.09.

reactant | bromine | 6.15 mmol, 0.326 mL | BrBr | Br2
reactant | acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 5.41 mmol, 1.87 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC=C(C=C2)OC(C)=O)C | C22H18O2S
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 47 mL | ClCCl | CH2Cl2
catalyst | iron (III) chloride | 0.31 mmol, 50 mg | [Fe](Cl)(Cl)Cl
product | Acetic Acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 2.09 g, 91% | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC=C(C=C2)OC(C)=O | C22H17BrO2S
